US04223033
To a stirred solution of (6-phenoxy-2-pyridyl)methanol (0.2 g, 0.99 mmol) and triethylamine (0.14 g, 1.38 mmol) in ether (about 15 ml), under nitrogen, is added by syringe a solution of the acid chloride of 2-(2-naphthyl)-3-methylbutanoic acid (1.5 mmol) in ether. The mixture is stirred for 30 minutes and then quenched with saturated aqueous sodium bicarbonate. The ether phase is washed with aqueous sodium bicarbonate, water and brine and filtered through silica. Evaporation of solvent, followed by thin layer chromatography using a circular chromatograph, eluting with 20% ether/hexane, gives (6-phenoxy-2-pyridyl)methyl 2-(2-napthyl)-3-methyl-butanoate, MS m/e 411(M+).

reactant | (6-phenoxy-2-pyridyl)methanol | 0.99 mmol, 0.2 g | O(C1=CC=CC=C1)C1=CC=CC(=N1)CO | C12H11NO2
reactant | triethylamine | 1.38 mmol, 0.14 g | C(C)N(CC)CC | C6H15N
reactant | 2-(2-naphthyl)-3-methylbutanoic acid | 1.5 mmol | C1=C(C=CC2=CC=CC=C12)C(C(=O)O)C(C)C | C15H16O2
solvent | ether | about 15 ml | CCOCC | C4H10O
product | (6-phenoxy-2-pyridyl)methyl 2-(2-napthyl)-3-methyl-butanoate | C1=C(C=CC2=CC=CC=C12)C(C(=O)OCC1=NC(=CC=C1)OC1=CC=CC=C1)C(C)C | C27H25NO3
